US07528147B2
A mixture of 3.8 g of 5-fluoro-3-trimethylsilanylethynylpyridin-2-ylamine and 3.4 g of potassium tert-butoxide in 100 ml of 1-methylpyrrolidin-2-one is brought to around 130° C. for approximately 4 hours. After returning to a temperature in the region of 20° C., the mixture is run into 1000 ml of a saturated aqueous sodium chloride solution and extracted with five times 250 ml of diethyl ether. The organic phases are combined, washed with five times 100 ml of a saturated aqueous sodium chloride solution, dried over magnesium sulfate, filtered, and concentrated to dryness under reduced pressure (13 kPa). 2.35 g of 5-fluoro-1H-pyrrolo[2,3-b]pyridine are obtained in the form of a solid, the characteristics of which are as follows:

reactant | 5-fluoro-3-trimethylsilanylethynylpyridin-2-ylamine | 3.8 g | FC=1C=C(C(=NC1)N)C#C[Si](C)(C)C | C10H13FN2Si
reactant | potassium tert-butoxide | 3.4 g | CC(C)([O-])C.[K+]
reactant | sodium chloride | 1000 ml | [Cl-].[Na+]
solvent | 1-methylpyrrolidin-2-one | 100 ml | CN1C(CCC1)=O | C5H9NO
product | 5-fluoro-1H-pyrrolo[2,3-b]pyridine | 2.35 g | FC=1C=C2C(=NC1)NC=C2 | C7H5FN2
